US07579374B2
There were dissolved, in 1 g of isooctane, 100 mg of geranyl geraniol and 900 mg of tridocosahexaenoin, followed by the addition of lipase in an amount of 1% relative to the total amount of the resulting solution and then stirring the mixture at 60° C. for 3 hours. After confirming whether the reaction system reached its equilibrium state or not by the GC technique, the reaction solution was diluted by the addition of hexane to the solution in an amount of 10 times the volume thereof, followed by the removal of the lipase from the reaction solution through filtration and then the removal of the hexane through distillation to thus give a crude reaction product. The crude product was purified by silica gel column chromatography to give 173 mg of geranyl-geranyl docosahexaenoate.

reactant | geranyl geraniol | 100 mg | C(\C=C(/C)\CCC=C(C)C)CC(C)=CCC\C(\C)=C\CO | C20H34O
reactant | tridocosahexaenoin | 900 mg | CC/C=C/C/C=C/C/C=C/C/C=C/C/C=C/C/C=C/CCC(=O)OCC(OC(=O)CC/C=C/C/C=C/C/C=C/C/C=C/C/C=C/C/C=C/CC)COC(=O)CC/C=C/C/C=C/C/C=C/C/C=C/C/C=C/C/C=C/CC | C69H98O6
reactant | hexane | CCCCCC | C6H14
solvent | isooctane | 1 g | C(C)(C)CC(C)(C)C | C8H18
product | geranyl-geranyl docosahexaenoate | 173 mg | C(C=CC=CC=CC=CC=CC=CCCCCCCCCC)(=O)OC\C=C(/C)\CC\C=C(\CC\C=C(/C)\CCC=C(C)C)/C | C42H64O2
